US05719141
0.75 g of a potassium hydride suspension (20% in oil) is added to a solution of 0.5 g of 3-hydroxyquinoline in 10 ml of tetrahydrofuran, while cooling with ice, and the mixture is stirred for 1 h. 1.25 ml of 2-bromomethyl methyl ether, dissolved in 10 ml of dimethylformamide, are then added and the mixture is allowed to warm to room temperature and is finally stirred at 60° C. for 1 h. After customary working up, the 3-(Methoxyethoxy)quinoline thus obtained is purified by means of FC over 80 g of silica gel (mobile phase B): Rf (97:3:0.5 mixture of methylene chloride, methanol and concentrated ammonia)=0.31. 1.0 g of the quinoline derivative mentioned in 10 ml of ethanol is hydrogenated in the presence of 0.1 g of palladium-on-charocal (10% of Pd) at 50° C. for 4 h. FC over 50 g of silica gel with a 100:1 mixture of methylene chloride and methanol as the eluting agent gives 3(R,S)-methoxyethoxy-1,2,3,4-tetrahydroquinoline: Rf (97:3:0.5 mixture of methylene chloride, methanol and concentrated ammonia)=0.49; MS: M+ =207.

reactant | potassium hydride | 0.75 g | [H-].[K+]
reactant | 3-hydroxyquinoline | 0.5 g | OC=1C=NC2=CC=CC=C2C1 | C9H7NO
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(Methoxyethoxy)quinoline | COCCOC=1C=NC2=CC=CC=C2C1 | C12H13NO2
